US04859232
Preparation of 1-(2-bromophenyl)-N-hydroxycyclopropanecarboximidamide (Antidote Compound #43)
To a solution of 1-(2-bromophenyl)cyclopropanecarbonitrile (19.6 g, 0.1 mole) in ethanol (100 ml), there was added water (100 ml) and then added hydroxylamine hydrochloride (14.0 g, 0.2 mole) and finally added sodium carbonate (11.0 g, 0.1 mole). The reaction mixture was refluxed for 16 hrs. The reaction mixture was cooled to room temperature and water (100 ml) was added. A white precipitate formed and was filtered to give 9.39 g of product (36% yield; M.P. 164°-167° C.).

reactant | 1-(2-bromophenyl)cyclopropanecarbonitrile | 0.1 mole, 19.6 g | BrC1=C(C=CC=C1)C1(CC1)C#N | C10H8BrN
reactant | water | 100 ml | O | H2O
reactant | hydroxylamine hydrochloride | 0.2 mole, 14.0 g | Cl.NO
reactant | sodium carbonate | 0.1 mole, 11.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(2-bromophenyl)-N-hydroxycyclopropanecarboximidamide | 9.39 g, 36% yield | BrC1=C(C=CC=C1)C1(CC1)C(NO)=N | C10H11BrN2O
